US09278910B2
To a stirred solution of 3,4-diaminobenzonitrile (1.08 g, 8.10 mmol) in THF (20 mL) at 0° C. was added trimethylaluminum (4.86 mL, 9.72 mmol, 2 M in hexanes). After 10 min, methyl 2-(4-(heptyloxy)phenyl)acetate (2.36 g, 8.91 mmol) was added and the cooling bath removed. After stirring for 48 h at 60° C., the reaction mixture was allowed to cool to room temperature then poured into a mixture of Rochelle's salt (6.86 g, 24.31 mmol) in water (150 mL) and EA (100 mL) and stirred for 2 h. The layers were split and the aqueous layer further extracted with EA (50 mL). The combined organics were washed successively with water (100 mL) and brine (50 mL), dried over MgSO4 and evaporated. The residue was taken up in xylenes (50 mL), treated with toxic acid (0.154 g, 0.810 mmol) and heated under reflux for 18 h. The reaction mixture was allowed to cool, diluted with EA (100 mL), washed with NaHCO3 (100 mL), dried over MgSO4 and evaporated. The crude material was purified by chromatography (EA/isohexanes) then re-slurried from isohexanes to afford 2.19 g, (78%) of 2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazole-5-carbonitrile as a white solid INT-46. LCMS-ESI (m/z) calculated for C22H25N3O: 347; found 348 [M+H]+, tR=2.82 min (Method 5).

reactant | 3,4-diaminobenzonitrile | 8.10 mmol, 1.08 g | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | trimethylaluminum | 9.72 mmol, 2 M, 4.86 mL | C[Al](C)C
reactant | methyl 2-(4-(heptyloxy)phenyl)acetate | 8.91 mmol, 2.36 g | C(CCCCCC)OC1=CC=C(C=C1)CC(=O)OC | C16H24O3
reactant | Rochelle's salt | 24.31 mmol, 6.86 g | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 150 mL | O | H2O
solvent | EA | 100 mL | CC(OCC)=O | C4H8O2
solvent | EA | 100 mL | CC(OCC)=O | C4H8O2
product | 2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazole-5-carbonitrile | 78% | C(CCCCCC)OC1=CC=C(CC2=NC3=C(N2)C=CC(=C3)C#N)C=C1 | C22H25N3O
